US09101133B2
2-(2,6-diethyl-4-methylphenyl)-5-[3-methoxyiminobutyl]-tetrahydropentalene-1,3-dione
267 mg (0.82 mmol) of 2-(2,6-diethyl-4-methylphenyl)-5-(oxobutyl)-tetrahydropentalene-1,3-dione (example I-a-39), 102 mg (1.23 mmol) of O-methylhydroxylamine hydrochloride and 0.5 ml of triethylamine in 10 ml of acetonitrile are stirred at room temperature overnight. The mixture is then taken up in ethyl acetate, washed with water and dried (magnesium sulphate) and the solvent is distilled off Chromatography on silica gel (mobile phase ethyl acetate/hexane 1:4) gives 225 mg (77%) of the target compound in the form of colourless crystals of m.p. 79-80° C.

reactant | 2-(2,6-diethyl-4-methylphenyl)-5-(oxobutyl)-tetrahydropentalene-1,3-dione | 0.82 mmol, 267 mg | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)CCCC=O)=O | C23H30O3
reactant | O-methylhydroxylamine hydrochloride | 1.23 mmol, 102 mg | Cl.CON
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-diethyl-4-methylphenyl)-5-[3-methoxyiminobutyl]-tetrahydropentalene-1,3-dione | 225 mg, 77% | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)CCC(C)=NOC)=O | C24H33NO3
